Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins / cephalexin / Keflex / azithromycin / clindamycin / 
erythromycin base / Tetracyclines / sulfamethoxazole
 
Attending: ___.
 
Chief Complaint:
Left upper arm unclassifiable pleomorphic sarcoma 
 
Major Surgical or Invasive Procedure:
1. Wide excision left upper arm sarcoma with greater than 30 cm2 
advancement flap

 
History of Present Illness:
Mr. ___ is a ___ male s/p TAVR + Pacemaker, HTN, CKD coming 
for excision of left upper arm sarcoma, He successfully 
completed his radiotherapy with Dr. ___ on ___. He denies 
any symptom from this mass, like pain or numbness.   

On ___ an MRI with contrast at the ___ 
___ showed a 12 cm CC by 8.1 cm TR by 8.2 cm AP 
heterogeneous mass centered within the subcutaneous space  well 
defined in contour and arising from the underlying triceps 
musculature.  A core needle biopsy was done on ___ showing 
a high grade unclassifiable pleomorphic sarcoma.  A staging 
torso CT performed on ___ showed a calcified aortic valve 
and two indeterminate punctate left lower lobe lung nodules. 
There was no evidence of metastatic disease within the abdomen 
or pelvis.
 
Past Medical History:
Cardiac History:  
- Hypertension
- Severe aortic stenosis s/p TAVR ___
On ___ he underwent a successful TVAR complicated by some 
left bundle branch block and Mobitz type I first-degree AV 
block.  A dual-chamber pacemaker was placed in the right chest 
on ___. 
Other PMH:  
- soft tissue sarcoma of L arm
- BPH
 
Social History:
___
Family History:
No family history of cardiovascular disesase
 
Physical Exam:
On Admission:
The chest was completely clear.  He was in sinus rhythm and had 
a mild systolic
murmur.  There was a pacemaker palpable in the right anterior 
chest.  He had no carotid bruits.  He had no cervical, 
supraclavicular, axillary, epitrochlear, inguinal, femoral or 
popliteal adenopathy.  The abdomen was obese and soft and 
without hepatosplenomegaly, mass, or tenderness.  His femoral 
and distal pulses were full.  He had mild pedal edema only.  He 
had no lower extremity cellulitis.  Overlying the left distal 
posterior upper arm he continued to have a visible protrusion 
with a firm underlying mass measuring about 12 cm axially.  The 
overlying skin was effaced with minimal radiation effect.  It 
appeared to be mobile overlying the lesion

On Discharge:
VS: 24 HR Data (last updated ___ @ 246)
    Temp: 98.1 (Tm 98.7), BP: 151/68 (138-153/63-68), HR: 68
(60-79), RR: 18 (___), O2 sat: 98% (95-98), O2 delivery: RA,
Wt: 193.2 lb/87.64 kg

GEN: A&Ox3, NAD, resting comfortably  
HEENT: NCAT, EOMI, sclera anicteric  
CV: RRR  
PULM: no respiratory distress  
ABD: soft, NT, ND, no rebound or guarding  
EXT: warm, well-perfused, left arm with dressing c/d/I, mild 
edema and bruising. Right arm wnl
PSYCH: normal insight, memory, and mood  
WOUND(S): Incision c/d/i 

 
Pertinent Results:
___ 06:17AM BLOOD WBC-6.0 RBC-2.55* Hgb-7.9* Hct-25.5* 
MCV-100* MCH-31.0 MCHC-31.0* RDW-15.3 RDWSD-56.8* Plt ___
___ 06:17AM BLOOD Glucose-107* UreaN-23* Creat-1.1 Na-133* 
K-4.1 Cl-98 HCO3-26 AnGap-9*
___ 06:17AM BLOOD Calcium-8.1* Phos-4.3 Mg-1.9
___ 08:00AM BLOOD WBC-5.6 RBC-2.50* Hgb-7.7* Hct-24.8* 
MCV-99* MCH-30.8 MCHC-31.0* RDW-15.4 RDWSD-55.5* Plt ___
___ 08:00AM BLOOD Glucose-100 UreaN-23* Creat-1.2 Na-140 
K-4.1 Cl-106 HCO3-25 AnGap-9*
___ 08:00AM BLOOD Calcium-8.3* Phos-3.1 Mg-1.9
 
Brief Hospital Course:
Mr. ___ presented to ___ holding at ___ on ___ for a 
removal of left upper extremity sarcoma. He tolerated the 
procedure well without complications (Please see operative note 
for further details). After a brief and uneventful stay in the 
PACU, the patient was transferred to the floor for further 
post-operative management.

Neuro: Pain was well controlled with oral medications
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulm: The patient remained stable from a pulmonary standpoint; 
oxygen saturation was routinely monitored. Had good pulmonary 
toileting, as early ambulation and incentive spirometry were 
encouraged throughout hospitalization.
GI: The patient was initially kept NPO after the procedure. The 
patient was later advanced to and tolerated a regular diet at 
time of discharge. Patient's intake and output were closely 
monitored
GU: Urine output was monitored as indicated, the patient has a 
history of BPH, he had urinary retention requiring straight 
cath, after that the patient ad one episode of hematuria that 
self resolved. He failed voiding trial and then a Foley catheter 
was placed x2 after failing voiding trial, lastly on ___ 
foley was removed and the patient voided. At time of discharge, 
the patient was voiding but his PVR still moderately elevated, 
he was advised to follow up with his urologist as soon as 
possible 
ID: The patient was closely monitored for signs and symptoms of 
infection and fever.
Heme: The patient had blood levels checked daily during their 
hospital course to monitor for signs of bleeding. The patient 
received subcutaneous heparin and ___ dyne boots were used 
during this stay, he was encouraged to get up and ambulate as 
early as possible. 

On ___ , the patient was discharged to home with home ___ 
services. At discharge, he was tolerating a regular diet, 
passing flatus, voiding, and ambulating independently. He will 
follow-up in the clinic in 1 weeks for suture removal. This 
information was communicated to the patient directly prior to 
discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. dutasteride 0.5 mg oral DAILY 
2. Lisinopril 10 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Pantoprazole 40 mg PO Q24H 
5. Ezetimibe 10 mg PO DAILY 
6. Rosuvastatin Calcium 10 mg PO QPM 
7. Acetaminophen ___ mg PO Q8H:PRN Pain - Mild/Fever 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0 
2.  GuaiFENesin ___ mL PO Q8H cough 
RX *guaifenesin [Adult Tussin Chest Congestion] 100 mg/5 mL 5 ml 
by mouth every eight (8) hours Disp #*1 Bottle Refills:*0 
3.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
RX *sennosides [Senna Lax] 8.6 mg 1 ml by mouth twice a day Disp 
#*60 Tablet Refills:*0 
4.  Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin [Flomax] 0.4 mg 1 capsule(s) by mouth at bedtime 
Disp #*30 Capsule Refills:*0 
5.  TraMADol 25 mg PO Q6H:PRN Pain - Moderate 
  Reason for PRN duplicate override: please start when patient 
arrives to floor
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth every eight 
(8) hours Disp #*6 Tablet Refills:*0 
6.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild/Fever  
7.  Aspirin 81 mg PO DAILY  
8.  dutasteride 0.5 mg oral DAILY  
9.  Ezetimibe 10 mg PO DAILY  
10.  Lisinopril 10 mg PO DAILY  
11.  Pantoprazole 40 mg PO Q24H  
12.  Rosuvastatin Calcium 10 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1. Left upper arm sarcoma with greater than 30 cm2 advancement 
flap

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___ underwent surgery to remove the tumor in your left upper 
arm, followed by skin-grafting of the wound. ___ have been 
recovering well, and the health of your skin graft is improving. 
The following is a summary of discharge instructions. 
MEDICATIONS 
1. Please resume all home medications, unless specifically 
advised not to take a particular medication. Please take any new 
medications as prescribed.
2. Please take all pain medications as prescribed, as needed. 
___ may not drive or operate heavy machinery while taking 
narcotic pain medications. ___ may also take acetaminophen 
(Tylenol) as directed, but do not exceed 4000 mg in one day. 
Please note that Percocet and Vicodin have Tylenol as an active 
ingredient, so do not take these medications with additional 
Tylenol. 

3. An over-the-counter stool softener such as Colace (100mg 
twice daily) is recommended to prevent constipation while on 
narcotic pain medication.

WOUND CARE
1. Monitor the wounds for signs of infection, including redness 
that is spreading or increased drainge from wounds. Please call 
Dr. ___ if ___ experience any of these symptoms.

ACTIVITY
1. No strenuous activity until cleared by Dr. ___.
2. No showering until cleared by Dr. ___ sponge baths only.
 
Call the office IMMEDIATELY if ___ have any of the following:  
1. Signs of infection: fever with chills, increased redness, 
swelling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision(s).  
2. A large amount of bleeding from the incision(s) or drain(s).  

3. Fever greater than 101.5 oF  
4. Severe pain NOT relieved by your medication.  
  
Return to the ER if:  
* If ___ are vomiting and cannot keep in fluids or your 
medications.  
* If ___ have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling ___.  
* Any serious change in your symptoms, or any new symptoms that 
concern ___.  

Thank ___ for allowing us to participate in your care.

 
Followup Instructions:
___